US08022062B2
2-Aminomethyl-quinoline
Combine quinoline-2-carbonitrile (0.2 g, 1.29 mmol), Raney® 3201 nickel (slurry in water, 0.05 g), 2N ammonia in methanol (10 mL) and hydrogenate at 50 psi for 15 min. Filter the reaction mixture through a pad of Celite®, remove the solvent and purify by SCX chromatography to obtain the title compound as a yellow oil (0.2 g, 98%). MS (ES+) m/z: 159 (M+H)+.

reactant | quinoline-2-carbonitrile | 1.29 mmol, 0.2 g | N1=C(C=CC2=CC=CC=C12)C#N | C10H6N2
reactant | ammonia | 2N | N | H3N
solvent | methanol | 10 mL | CO | CH4O
catalyst | nickel | 0.05 g | [Ni] | Ni
product | 2-Aminomethyl-quinoline | 0.2 g, 98% | NCC1=NC2=CC=CC=C2C=C1 | C10H10N2
